US06248772B1
The reaction was carried out in a manner similar to Example 1 except for using 0.85 g (4.49 mmol) of methyl 1-methyl-4-indolecarboxylate, 4.29 g (44.9 mmol) of guanidine hydrochloride and 50 ml of a methanol solution of 2.43 g (44.9 mmol) of sodium methoxide. Thus 0.75 g (66.1%) of 1-methyl-4-indoloylguanidine hydrochloride was obtained.

reactant | methyl 1-methyl-4-indolecarboxylate | 4.49 mmol, 0.85 g | CN1C=CC=2C(=CC=CC12)C(=O)OC | C11H11NO2
reactant | guanidine hydrochloride | 44.9 mmol, 4.29 g | Cl.NC(=N)N
reactant | sodium methoxide | 44.9 mmol, 2.43 g | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 1-methyl-4-indoloylguanidine hydrochloride | 0.75 g, 66.1% | Cl.CN1C=CC=2C(=CC=CC12)C(=O)NC(=N)N | InChI=1S/C11H12N4O.ClH/c1-15-6-5-7-8(3-2-4-9(7)15)10(16)14-11(12)13;/h2-6H,1H3,(H4,12,13,14,16);1H
